US07960409B2
Step 4: 7-(2-hydroxyethyl)-4-phenylquinoline-2-carbonitrile
To a solution of 7-(2-oxoethyl)-4-phenylquinoline-2-carbonitrile (1.5 g, 5.5 mmol) in THF (30 mL) and MeOH (10 mL) was added portionwise at 0° C. sodium borohydride (320 mg, 8.4 mmol). The mixture was stirred overnight at rt. The reaction was quenched with saturated aqueous NH4Cl and extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4 concentrated under reduced pressure and purified on silica gel (eluting with ethyl acetate/hexanes, 1:1) to give the title compound. MS (+ESI): 275 (M+H)+.

reactant | 7-(2-oxoethyl)-4-phenylquinoline-2-carbonitrile | 5.5 mmol, 1.5 g | O=CCC1=CC=C2C(=CC(=NC2=C1)C#N)C1=CC=CC=C1 | C18H12N2O
reactant | sodium borohydride | 8.4 mmol, 320 mg | [BH4-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | MeOH | 10 mL | CO | CH4O
product | 7-(2-hydroxyethyl)-4-phenylquinoline-2-carbonitrile | OCCC1=CC=C2C(=CC(=NC2=C1)C#N)C1=CC=CC=C1 | C18H14N2O
